US04831029
A solution of 39.05 g (0.3 mole) of 5-amino-3-methylthio-1H-1,2,4-triazole, 85.1 g (0.3 mole) of 1-benzyl-3-carbomethoxy-4-piperidone-hydrochloride and 125 ml of acetic acid is heated to boiling for 5.5 hours. The reaction mixture is cooled and 350 ml of concentrated ammonium hydroxide are added. The mixture is allowed to stand for 16 hours at room temperature, the precipitated crystals are filtered and washed with water. The product is heated to boiling in 300 ml of methanol for 15 minutes and filtered again. The product is dissolved in hot dimethyl formamide, precipitated by adding acetonitrile, filtered and washed with acetonitrile. Thus 53.6 g of 7-benzyl-2-methylthio-6,7,8,9-tetrahydro-pyrido[4,3-d]-1,2,4-triazolo[1,5-a]pyrimidine-5(10H)-one are obtained, yield 54%, m.p.: 245°-247° C.

reactant | 5-amino-3-methylthio-1H-1,2,4-triazole | 0.3 mole, 39.05 g | NC1=NC(=NN1)SC | C3H6N4S
reactant | 1-benzyl-3-carbomethoxy-4-piperidone-hydrochloride | 0.3 mole, 85.1 g | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)=O)C(=O)OC
reactant | ammonium hydroxide | 350 ml | [OH-].[NH4+]
solvent | acetic acid | 125 ml | C(C)(=O)O | C2H4O2
product | 7-benzyl-2-methylthio-6,7,8,9-tetrahydro-pyrido[4,3-d]-1,2,4-triazolo[1,5-a]pyrimidine-5(10H)-one | 53.6 g, yield 54% | C(C1=CC=CC=C1)N1CC2=C(N=C3N(C2)NC(=N3)SC)C(C1)=O | C16H17N5OS
